US07291736B2
Preparation of 3-(2-dimethylaminoethyl)-1-[(3-fluorophenyl)sulfonyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A solution of 3-(2-dimethylaminoethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (20 mg, 0.10 mmol) in THF at room temperature is treated with 3-fluorophenyl-sulfonyl chloride (26 mg, 0.12 mmol), followed by diisopropylethylamine (25 μL, 0.20 mmol) and DMAP (5 mg), stirred at room temperature for 12 h and concentrated in vacuo. The resultant residue is dissolved in a mixture of DMSO, methanol and water and purified by Gilson preparative HPLC1 to give the title compound, [M+H] 365, retention time (RT) 2.54 minutes. 1HPLC Conditions: HP 1100 HPLC system; Waters Xterra MS C18, 2 mm (i.d.)×50 mm (length), 3.5 um column, set at 50° C.; Flow rate 1.0 mL/min; Solvent A: 0.02% formic acid in water; Solvent B 0.02% formic acid in ACN; Gradient: Time O: 10% B; 2.5 min 90% B; 3 min 90% B; Sample concentration: ˜2.0 mM; Injection volume: 5 uL; Detection: 220 nm, 254 nm DAD.

reactant | 3-(2-dimethylaminoethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.10 mmol, 20 mg | CN(CCN1C(NC=2C1=NC=CC2)=O)C | C10H14N4O
reactant | 3-fluorophenyl-sulfonyl chloride | 0.12 mmol, 26 mg | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | diisopropylethylamine | 0.20 mmol, 25 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(2-dimethylaminoethyl)-1-[(3-fluorophenyl)sulfonyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | CN(CCN1C(N(C=2C1=NC=CC2)S(=O)(=O)C2=CC(=CC=C2)F)=O)C | C16H17FN4O3S
